data/mechanisms/records/IMS9-EQ9.30a.json
{"mechanism_id": "IMS9-EQ9.30a", "species": [{"species_id": "tmch_molecular_ion", "mapped_smiles": "[O+:7]=[C:1]1[CH2:2][C:3]([CH3:8])([CH3:9])[CH2:4][CH:5]([CH3:10])[CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ring_opened_acylium_c1c6", "mapped_smiles": "[O+:7]#[C:1][CH2:2][C:3]([CH3:8])([CH3:9])[CH2:4][CH:5]([CH3:10])[CH2:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ion_mz112", "mapped_smiles": "[CH2+:2][C:3]([CH3:8])([CH3:9])[CH2:4][CH:5]([CH3:10])[CH2:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "carbon_monoxide", "mapped_smiles": "[C-:1]#[O+:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isobutene_neutral", "mapped_smiles": "[CH2:2]=[C:3]([CH3:8])[CH3:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_ion_mz56", "mapped_smiles": "[CH2+:4][CH:5]([CH3:10])[CH2:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["tmch_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_acylium_c1c6"]}, {"state_id": "state_mz112", "species_ids": ["distonic_ion_mz112", "carbon_monoxide"]}, {"state_id": "state_mz56", "species_ids": ["distonic_ion_mz56", "isobutene_neutral", "carbon_monoxide"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_co_loss", "from_state": "state_ring_opened", "to_state": "state_mz112", "step_class": "carbon_monoxide_elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_alkene_loss", "from_state": "state_mz112", "to_state": "state_mz56", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.30", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Alicyclic ketones' (upper arrow labelled alpha)"}, "confidence": 0.75, "curator_note": "Substrate named by the prose ON THIS PAGE: 'Alicyclic ketones. The mass spectrum of 3,3,5-trimethylcyclohexanone (Figure 8.5) illustrates major additional fragmentation pathways found for cyclic ketones (Equation 9.30); these are similar to those discussed for cyclic alcohols and in Section 8.9.' Drawn as a cyclohexanone with '+.' over the oxygen, gem-dimethyl at the lower-left ring carbon and a single methyl at the lower-right one, labelled 'm/z 140'. ATOM MAPS use the ring numbering of that name: 1 = the carbonyl carbon, 2 and 6 = the two alpha CH2 groups, 3 = the gem-dimethyl quaternary carbon, 4 = the remaining ring CH2, 5 = the CH bearing the single methyl, 7 = O, 8/9 = the two 3,3-methyls, 10 = the 5-methyl. THIS RECORD'S alpha CHANNEL cleaves the C1-C6 ring bond, giving the acylium on C1 and a primary radical on C6 (the page prints the radical dot on the upper-right ring carbon and draws no bond between it and the carbonyl carbon -- that missing bond is how the ring opening is shown). *** BOND ORDER MEASURED, NOT EYEBALLED: every C-O bond drawn in equation 9.30 is a TRIPLE bond. *** A dark-run pixel profile across the three C-O bonds on the native 1760x2560 scan returns three parallel strokes in each case (upper alpha product at native x 587/598/608, lower at 591/601/611, m/z 83 ion at 1402/1412/1422). At page-render resolution the upper one reads as a double bond, which would make its carbon a sextet; it is not. The ring-opened species are therefore true acylium ions R-C#O+, encoded '[O+:7]#[C:1]' as in IMS9-EQ9.27a. The alpha arrow: the molecular ion carries ZERO arcs (only '+.' over the oxygen), so all three moves are curator-supplied -- the canonical radical-site triple: <1> the oxygen odd electron into the C1-O bond, raising C=O to the C#O+ of the acylium, <2> one electron of the breaking ring bond into that same bond, <3> the second electron staying on the departing ring carbon as the new radical site. The ring does not fall apart: the 'fragments' stay tied together through the rest of the ring, so this step is a RING OPENING to a distonic ion of unchanged mass (140.1196), which is why the page draws the product with the same hexagonal layout minus one bond. SOLID vs DASHED ARCS (the page's channel-marking convention, the same one recorded for eqs 9.19/9.20): the upper alpha product carries BOTH branches' arrows at once -- the CO-loss arc is SOLID and the hydrogen-rearrangement pair is DASHED. IMS9-EQ9.30a owns the solid arc; IMS9-EQ9.30b owns the dashed pair."}, {"evidence_id": "evidence_step_co_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_co_loss", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.30", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Alicyclic ketones' (arrow labelled 'i' with '-CO')"}, "confidence": 0.8, "curator_note": "The arrow labelled 'i' with '- CO' written under it. Book draws 1 arc, the SOLID one on the ring-opened product: a full (double-barbed, two-electron) curved arrow whose tail sits on the C1-C2 bond and whose head points up at the carbon end of the C#O+ bond. Encoded as exactly that one move -- the C1-C2 pair migrating onto C1 -- which expels neutral carbon monoxide and leaves the charge on C2 as a primary carbenium, the '+' the page prints over the left-hand carbon of 'm/z 112'. Since the precursor is an EVEN-electron acylium and the step is a true two-electron migration, there are no fishhooks here (the IMS9-EQ9.26b precedent), and CO is written '[C-:1]#[O+:7]', the standard RDKit form used there. The arrow-check emits one SOFT line for this step, 'atom 1: radical change +0 vs arrows +2 (consistent with a lone pair rather than radicals)': the two electrons become CO's carbon lone pair, which is correct, and the checker flags the parity-preserving ambiguity by design. The odd electron on C6 is a SPECTATOR: m/z 112 is still an odd-electron distonic ion (charge on C2, radical on C6), which is what lets the page take it apart again in the next step. MEASUREMENTS (convention F): the page LABELS m/z 140, 112, 56, 83 and 69 on the scheme itself, and every one of them matches the exact mass computed from the structure encoded here (140.1196, 112.1247, 56.0621, 83.0491, 69.0335 -- RDKit ExactMolWt, which already applies the formal charge). Peak assignments store those computed exact masses with status 'proposed', the corpus convention for a book-labelled m/z (IMS9-EQ9.22, IMS9-EQ9.19a). NO relative_intensity: the scheme prints no percentage, and Figure 8.5 -- the actual 3,3,5-trimethylcyclohexanone spectrum, which does carry abundances -- is in chapter 8, not on this page."}, {"evidence_id": "evidence_step_alkene_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_alkene_loss", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.30", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Alicyclic ketones' (second arrow labelled 'i', to m/z 56)"}, "confidence": 0.7, "curator_note": "The second 'i' arrow. Book draws 1 arc, on the m/z 112 ion: a full two-electron curved arrow, tail on the C3-C4 bond, head pointing up-left at the '+' on C2. Encoded as that single move -- the C3-C4 pair closing the C2=C3 double bond -- which expels the neutral alkene the page draws as (CH3)2C=CH2 (isobutene, C4H8, 56.0626) and leaves the charge on C4. PRODUCT FORM, DISCLOSED (the one place the stored graph is not the printed one): the page draws 'm/z 56' as a CYCLOPROPANE TRIANGLE bearing a methyl, with a single '+.' inside it, i.e. the methylcyclopropane radical cation with charge and odd electron delocalised over the ring. A mapped SMILES cannot hold that -- a closed C4H8 ring is full-valence, so it cannot carry charge +1 AND one unpaired electron -- and no drawn arrow forms the C4-C6 ring bond either. The stored graph is therefore the 1,3-DISTONIC open form the arrows actually produce, +CH2-CH(CH3)-CH2., which is the ring's immediate precursor; same atoms, same maps, one bond fewer. This is the same disclosure as IMS9-EQ9.28b and the IMS9-EQ9.26e precedent it follows. NB the two halves are both C4H8 and both nominally 56: the neutral isobutene computes to 56.0626 and the ion to 56.0621, the electron mass, not a discrepancy. Carbon monoxide is carried forward in this state as an already-lost neutral so the step stays atom-balanced (the IMS9-EQ9.25b convention)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 140.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_140", "species_id": "tmch_molecular_ion", "step_id": null, "observed_mz": 140.1196, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_112", "species_id": "distonic_ion_mz112", "step_id": "step_inductive_co_loss", "observed_mz": 112.1247, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}, {"peak_id": "peak_56", "species_id": "distonic_ion_mz56", "step_id": "step_inductive_alkene_loss", "observed_mz": 56.0621, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-10T00:00:00Z", "modified_at": "2026-08-10T00:00:00Z"}}
